US03965144
A 50% solution of 2,5-dimethoxybenzyl alcohol and dry benzene was added dropwise to an ice-cold stirring solution of 12.5 wt. % phosgene in benzene (1 mole of alcohol per 2 moles phosgene). The resulting solution was maintained at 0° for 1 hour and then stirred an additional 2 hours at room temperature. Excess phosgene, byproduct hydrogen chloride and a small amount of benzene was removed in vacuo at room temperature to provide crude 2,5-dimethoxybenzyloxycarbonyl chloride solution. The crude product was added dropwise to a 50 wt. % solution of p-aminobenzoic acid in dry tetrahydrofuran containing 2 moles of pyridine per mole of acid. An additional two equivalents of pyridine was added dropwise simultaneously with the carbonyl chloride addition. Upon completion of the addition (25-40 mins.), the resulting mixture was added dropwise with stirring to ice-cold 5% aqueous hydrochloric acid (10 volumes of acid per final volume of reaction solution). The product was collected by filtration, dried and purified by recrystallization from acetone. m.p. 124-25.

reactant | 2,5-dimethoxybenzyl alcohol | COC1=C(CO)C=C(C=C1)OC | C9H12O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 1 mole | C1=CC=CC=C1 | C6H6
product | 2,5-dimethoxybenzyloxycarbonyl chloride | COC1=C(COC(=O)Cl)C=C(C=C1)OC | C10H11ClO4
